US08536179B2
a) 7-(Methyloxy)-1-(phenylsulfonyl)-1H-indole
To a cooled (ice water bath) solution of 7-(methyloxy)-1H-indole (3 g, 20.38 mmol) in DMF (100 mL) was added sodium hydride (0.618 g, 24.46 mmol) portionwise. After 15 minutes a solution of benzenesulfonyl chloride (3.94 mL, 30.6 mmol) in 20 ml of DMF was added dropwise. The reaction mixture was stirred at RT for 24 h, at which time it was concentrated. The residue was dissolved in DCM (100 ml) and washed with water and brine, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography (Biotage; 0% to 100% DCM:Hex; 50 g-HP-silica gel column) to give 3.65 g of the title compound. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 3.65 (s, 3H), 6.60-6.75 (m, 2H), 7.08-7.22 (m, 2H), 7.40-7.62 (m, 3H), 7.77-7.92 (m, 3H). MS (ES) [M+H]+ 288.0.

reactant | 7-(methyloxy)-1H-indole | 20.38 mmol, 3 g | COC=1C=CC=C2C=CNC12 | C9H9NO
reactant | sodium hydride | 24.46 mmol, 0.618 g | [H-].[Na+]
reactant | benzenesulfonyl chloride | 30.6 mmol, 3.94 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 7-(Methyloxy)-1-(phenylsulfonyl)-1H-indole | 3.65 g | COC=1C=CC=C2C=CN(C12)S(=O)(=O)C1=CC=CC=C1 | C15H13NO3S
